US07297700B2
Preparation of 7-benzyl-4-chloro-5,6,7,8-tetrahydro-[1,7]naphthyridine
7-Benzyl-5,6,7,8-tetrahydro-[1,7]naphthyridin-4-ol (0.1 g, 0.417 mmol) in 3 ml of POCl3 was refluxed for 40 minutes. LCMS indicated complete coversion to the desired product. The excess POCl3 was removed under reduced pressure and taken on to the next step without further purification.

reactant | 7-Benzyl-5,6,7,8-tetrahydro-[1,7]naphthyridin-4-ol | 0.417 mmol, 0.1 g | C(C1=CC=CC=C1)N1CCC=2C(=CC=NC2C1)O | C15H16N2O
reactant | POCl3 | 3 ml | O=P(Cl)(Cl)Cl | Cl3OP
product | 7-benzyl-4-chloro-5,6,7,8-tetrahydro-[1,7]naphthyridine | C(C1=CC=CC=C1)N1CCC=2C(=CC=NC2C1)Cl | C15H15ClN2
